US04775692
Under argon atmosphere, 1.63N n-butyl lithium (65 ml, 106 mmol) was added dropwise at -78° C. to a stirred solution of dimethyl methylphosphonate (13.6 g, 110 mmol) in anhydrous THF (200 ml) and stirring was further continued for 20 minutes. A solution of methyl l-3-methylhexanoate (6.92 g, 48 mmol) in anhydrous THF (20 ml) was added dropwise, and the mixture was stirred at room temperature for one hour. Acetic acid (6.7 ml) was added to neutralize the solution and water (70 ml) was then added. After concentration, the residue was extracted with ether (200 ml×2), and the combined organic layers were washed with brine (40 ml×2), and dried over anhydrous sodium sulfate. Concentration and purification by vacuum distillation gave dimethyl 4(S)-methyl-2-oxo-heptylphosphonate (8.18 g, 34.6 mmol, 72%, b.p.: 114°-115° C./0.25 mmHg).

reactant | n-butyl lithium | 106 mmol, 1.63N, 65 ml | C(CCC)[Li]
reactant | dimethyl methylphosphonate | 110 mmol, 13.6 g | CP(OC)(OC)=O | C3H9O3P
reactant | methyl l-3-methylhexanoate | 48 mmol, 6.92 g | CC(CC(=O)OC)CCC | C8H16O2
reactant | Acetic acid | 6.7 ml | C(C)(=O)O | C2H4O2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 70 ml | O | H2O
product | dimethyl 4(S)-methyl-2-oxo-heptylphosphonate | 34.6 mmol, 8.18 g, 72% | C[C@H](CC(CP(OC)(OC)=O)=O)CCC | C10H21O4P
